US05587373
4-tert-Butylcarbonyl-2-{4-[(2,5-dihydro-6-hydroxy-2-methyl-5-oxo-1,2,4-triazin-3-yl)thiomethyl]benzoyloxy}-7α-methoxy-3-methyl-3-cephem 1,1-dioxide (compound 38)
A solution of 2-bromo-4-tert-butylcarbonyl-7α-methoxy-3-methyl-3-cephem 1,1-dioxide (110 mg) in acetonitrile (100 ml) was treated with 4-[(6-benzhydryloxy-2,5-dihydro-2-methyl-5-oxo-1,2,4- triazin-3-yl)thiomethyl]benzoic acid siver salt (230 mg). The reaction mixture was stirred at room temperature for 30 minutes, then diluted with EtOAC, filtered and rotoevaporated. Upon purification of the residue by flash chromatography 4-tert-butylcarbonyl-2-{4-[(6-benzhydryloxy-2,5-dihydro-2-methyl-5-oxo-1,2,4-triazin-3-yl)thiomethyl]benzoyloxy}-7α-methoxy-3-methyl-3-cephem 1,1-dioxide was obtained as a white solid (mg 75). This product was dissolved in methylene chloride (0.5 ml) and sequentially treated with anisole (0.03 ml) and trifluoroacetic acid (0.5 ml).

reactant | 2-bromo-4-tert-butylcarbonyl-7α-methoxy-3-methyl-3-cephem 1,1-dioxide | 110 mg | BrC1S([C@H]2N(C(=C1C)C(=O)C(C)(C)C)C([C@@H]2OC)=O)(=O)=O | C13H18BrNO5S
reactant | 4-[(6-benzhydryloxy-2,5-dihydro-2-methyl-5-oxo-1,2,4- triazin-3-yl)thiomethyl]benzoic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC=1C(N=C(N(N1)C)SCC1=CC=C(C(=O)O)C=C1)=O | C25H21N3O4S
reactant | anisole | 0.03 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | methylene chloride | 0.5 ml | C(Cl)Cl | CH2Cl2
product | 4-tert-Butylcarbonyl-2-{4-[(2,5-dihydro-6-hydroxy-2-methyl-5-oxo-1,2,4-triazin-3-yl)thiomethyl]benzoyloxy}-7α-methoxy-3-methyl-3-cephem 1,1-dioxide | C(C)(C)(C)C(=O)C1=C(C(S([C@H]2N1C([C@@H]2OC)=O)(=O)=O)OC(C2=CC=C(C=C2)CSC=2N(N=C(C(N2)=O)O)C)=O)C | C25H28N4O9S2
